US04411753
6-(1-ethylcyclohexyl)-3-pyridazinone
To 14.0 g. of 4-(1-ethylcyclohexyl)-4-oxo-2-butenoic acid was added 100 ml. of ethanol and 4 g. of hydrazine. The mixture was stirred under reflux under a 300 watt sun-lamp in a 100 ml. Pyrex flask for 18 hours. The lamp was placed 5 cm. from the flask and emitted light of wave lengths primarily between 200 and 800 mμ. The mixture was then evaporated to dryness under vacuum, and to the residue was added 1000 ml. of diethyl ether. The ether solution was washed with 500 ml. of 0.1 N hydrochloric acid, 0.1 N sodium hydroxide and saturated sodium chloride solution, dried over magnesium sulfate and evaporated under vacuum to an oil. The oil was taken up in a little hexane and triturated to obtain a crystalline solid. The solid was recrystallized from ethyl acetate/hexane to obtain 0.15 g. of the desired product, m.p. 138°-140°. It was identified by its infrared spectrum, showing absorption bands at 1650 and 1675 cm.-1, and by its mass spectroscopy spectrum, showing its molecular ion of mass 206.

reactant | 4-(1-ethylcyclohexyl)-4-oxo-2-butenoic acid | C(C)C1(CCCCC1)C(C=CC(=O)O)=O | C12H18O3
reactant | hydrazine | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 6-(1-ethylcyclohexyl)-3-pyridazinone | C(C)C1(CCCCC1)C=1C=CC(NN1)=O | C12H18N2O
